Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Right lower quadrant incarcerated incisional hernia
 
Major Surgical or Invasive Procedure:
Laparoscopic incisional hernia repair ___ ___.

 
History of Present Illness:
___ is a very pleasant female who is status
post right nephrectomy with an extraction site hernia at the
right lower quadrant.  She is having discomfort.  Patient 
presented for planned laparoscopic repair of her incisional 
hernia.
 
Past Medical History:
PMHx:
Hemorrhoids
Diverticulosis with h/o diverticulitis
Renal cell cancer s/p ___ R nephrectomy
NIDDM
Hyperlipidemia
Hypertension
GERD
Mild intermittent asthma
Migraine headaches
Chronic low back pain and cervical radiculopathy -- related at
least in part to prior MVCs, has narcotic contract
Goiter 
Colonic adenoma -- overdue for colonoscopy
Obesity 
Ocular hypertension 

PSHx:
___ R nephrectomy for cancer as noted above
C-section
Tubal ligation
No other abdominal surgery

 
Social History:
___
Family History:
___:
Mother with lung cancer
Aunts with breast cancer
No colon cancer
Lots of diabetes in the family

 
Physical Exam:
VS: Reviewed in OMR
GEN: A&Ox3, NAD, resting comfortably 
HEENT: NCAT, EOMI, sclera anicteric
CV: RRR
PULM: no respiratory distress
ABD: soft, minimally appropriately tender, non-distended, lap
sites c/d/I with dermabond and small surrounding ecchymoses,
especially R lateral 
EXT: warm, well-perfused, no edema 
PSYCH: normal insight, memory, and mood
WOUND(S): Incision c/d/i
DRAIN(S): none

 
Pertinent Results:
Please see OMR for pertinent results.
 
Brief Hospital Course:
The patient presented on ___ for a laparoscopic repair.  
There were no adverse events in the operating room; please see 
the operative note for details. Post-operatively the patient was 
taken to the PACU until stable and then transferred to the wards 
until stable to go home. 

#NEURO: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with oxycodone. Pain 
was very well controlled.

#CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  

#PULMONARY: The patient was initially admitted overnight for 
observation due to concern of her poor respiratory status from 
COPD.  The patient remained stable from a pulmonary standpoint 
during this admission; vital signs were routinely monitored. 
Good pulmonary toilet, early ambulation and incentive spirometry 
were encouraged throughout hospitalization.  

#GI/GU/FEN: The patient was voiding on her own by postop day 1.  
The patient was tolerating a regular diet prior to discharge.  
The patient had some constipation on postop day 3, as well as 2 
episodes of nausea and small emesis.  She was given Zofran and 
bowel regimen, both of which improved her symptoms.

#ID: The patient's fever curves were closely watched for signs 
of infection, of which there were none.  

#HEME: Patient received BID SQH for DVT prophylaxis, in addition 
to encouraging early ambulation and Venodyne compression 
devices. 

#OTHER: Patient had some lightheadedness on postop day 1 and 2.  
The patient was encouraged to take p.o. fluids, with resolution 
of symptoms.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating diet as 
above per oral, ambulating, voiding without assistance, and pain 
was well controlled.  The patient was discharged home without 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
X-VIATE 40 % Cream Apply to soles of feet every day. 
metFORMIN 500 mg twice daily 
PREGABALIN 150 MG CAP Take 1 capsule 3 times a day 
HYDROCODONE-ACETAMINOPHEN 5 MG-325 MG TAB (HYDROCODONE 
dulaglutide (TRULICITY) 0.75 mg/0.5 mL Pen Injector Administer 
0.75 mg subcutaneously once weekly 
ALBUTEROL SULFATE HFA 90 MCG/ACTUATION AEROSOL INHALER Inhale 2 
puffs as instructed every ___ hours as needed; rinse mouthpiece 
at least weekly 
LORAZEPAM 0.5 MG TAB Take 1 TO 2 tablets by mouth at bedtime as 
needed 
LANSOPRAZOLE 30 MG CAP, DELAYED RELEASE Take 1 capsule by mouth 
twice daily 
GLIPIZIDE SR 10 MG 24 HR TAB Take 1 tablet by mouth twice daily 
ROSUVASTATIN 20 MG TAB Take 1 tablet by mouth daily 
LOSARTAN 100 MG TAB Take 1 tablet by mouth daily 
albuterol (VENTOLIN,PROVENTIL) 2.5 mg /3 mL (0.083 %) Solution 
for Nebulization Use 3 mL in nebulizer as instructed every ___ 
hours as needed for asthma symptoms 
VENLAFAXINE SR 150 MG 24 HR CAP Take 1 capsule by mouth daily 
MUPIROCIN 2 % OINTMENT Apply twice daily to infected sites and 
behind ears, under nostrils, under breasts, under armpitS, 
GROIN, AND BUTTOKCS 
ECONAZOLE 1 % TOPICAL CREAM Apply twice daily until resolved and 
then an additional two weeks thereafter. 
FUROSEMIDE 20 MG TAB Take 1 tablet by mouth daily 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
5.  Senna 8.6 mg PO BID  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezingf  
7.  Furosemide 20 mg PO DAILY  
8.  GlipiZIDE XL 10 mg PO BID  
9.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
10.  Lidocaine 5% Patch 1 PTCH TD QPM Back pain  
11.  LORazepam 0.5 mg PO QHS:PRN insomnia  
12.  Losartan Potassium 100 mg PO DAILY  
13.  MetFORMIN (Glucophage) 500 mg PO BID  
14.  Pregabalin 150 mg PO TID  
15.  Rosuvastatin Calcium 20 mg PO QPM  
16.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incisional hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the Emergency Department if you develop a fever greater than 101 
F, shaking chills, chest pain, difficulty breathing, pain with 
breathing, cough, a rapid heartbeat, dizziness, severe abdominal 
pain, pain unrelieved by your pain medication, a change in the 
nature or severity of your pain, severe nausea, vomiting, 
abdominal bloating, severe diarrhea, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness, 
swelling from your incisions, or any other symptoms which are 
concerning to you.

Diet: You may have a regular diet as tolerated.

Medication Instructions:
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:
1.  Pain medication: You will receive a prescription for liquid 
oxycodone, an opioid pain medication.  This medication will make 
you drowsy and impair your ability to drive a motor vehicle or 
operate machinery safely. You MUST refrain from such activities 
while taking these medications. You may also take acetaminophen 
(Tylenol) for pain management; do not exceed 4000 mg per 24 hour 
period.  Do not take your home Percocet when taking the 
oxycodone or Tylenol.
2. Constipation: This is a common side effect of opioid pain 
medication that he received while in the hospital.  If you 
experience constipation, please reduce or eliminate opioid pain 
medication.  You may trial 2 ounces of light prune juice and/or 
a stool softener (i.e. crushed docusate sodium tablets), twice 
daily until you resume a normal bowel pattern.  Please stop 
taking this medication if you develop loose stools. Please do 
not begin taking laxatives including until you have discussed it 
with your nurse or surgeon.
3.  Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.

Activity:
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than 10 
to 15 pounds for six weeks.

Wound Care:
You may remove any remaining gauze from over your incisions.  
You will have thin paper strips (Steri-Strips) over your 
incision; please, remove any remaining Steri-Strip seven to 10 
days after surgery.   
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry.  Avoid tub baths or 
swimming until cleared by your surgeon. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites. 
Avoid direct sun exposure to the incision area for up to 24 
months.
Do not use any ointments on the incision unless you were told 
otherwise.
 
Followup Instructions:
___